US07432275B2
2. 4-Chloro-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid ethyl ester
Dissolve 4-hydroxy-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid ethyl ester (345 mg, 1.11 mmol) in thionyl chloride (15 mL) and heat the mixture at reflux overnight. Cool the mixture to room temperature and remove the excess thionyl chloride in vacuo. Dissolve the crude reaction mixture in CH2Cl2 (50 mL) and wash with saturated NaHCO3 (aq). Dry the organic layer over Na2SO4 and remove the solvent under reduced pressure to yield the title compound. MS 329.12 (M+1)

reactant | 4-hydroxy-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid ethyl ester | 1.11 mmol, 345 mg | C(C)OC(=O)C=1N=C(C2=C(N1)N=C(C=C2)C2=NC=CC=C2C)O | C16H14N4O3
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-Chloro-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(C2=C(N1)N=C(C=C2)C2=NC=CC=C2C)Cl | C16H13ClN4O2
